US05885990
30 Milliliters of anhydrous pyridine and 10 ml of DMF were added to 1.8 g of 4-nitrobenzoic acid, 3.0 g of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 2.7 g of DCC and 130.9 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 24 hours at room temperature. Then, the precipitate was collected by filtration and washed with a small amount of DMF. To this collected precipitate was added 100 ml of DMF, to dissolve the precipitate with heating, followed by stirring for 2 hours under cooling with ice. Then, insoluble matter was filtered off and the filtrate was concentrated to 20 ml under reduced pressure. The residue was added dropwise to 400 ml of acetone, followed by stirring for 24 hour under cooling with ice. The precipitate was collected by filtration to obtain a crude product. Then, the product was subjected to silica gel column chromatography using chloroformmethanol-acetic acid (80:15:5) as an eluent, and the desired fractions were collected and the solvent was distilled off under reduced pressure. The residue was suspended with addition of 20 ml of methanol and 0.6 ml of concentrated hydrochloric acid, and the suspension was added dropwise to a mixed liquid of 200 ml of ether and 20 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain 1.35 g of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-nitrobenzoate.hydrochloride.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrobenzoic acid | 1.8 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 3.0 g | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 2.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 130.9 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-nitrobenzoate.hydrochloride | 1.35 g | Cl.[N+](=O)([O-])C1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | InChI=1S/C20H16N4O5.ClH/c21-18(25)10-16-15-7-3-13(19(22)23)9-12(15)4-8-17(16)29-20(26)11-1-5-14(6-2-11)24(27)28;/h1-9H,10H2,(H2,21,25)(H3,22,23);1H
